US03980795
A solution of 23.6 g of 3-(4-biphenylyl)-pyrazolin-5-one [obtainable from 3-(4-biphenylyl)-3-oxopropionic acid ethyl ester and hydrazine] in 400 ml of THF is added dropwise, while stirring and cooling, to a Grignard solution prepared from 4.8 g of magnesium and 28.4 g of methyl iodide in 800 ml of absolute THF. After stirring for 2 hours at 10°-25°, the mixture is decomposed with ice and dilute hydrochloric acid and worked up in the usual manner to give 3-(4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 191°-192°.

reactant | 3-(4-biphenylyl)-pyrazolin-5-one | 23.6 g | C1(=CC=C(C=C1)C=1NNC(C1)=O)C1=CC=CC=C1 | C15H12N2O
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | methyl iodide | 28.4 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 3-(4-biphenylyl)-3-methyl-pyrazolidin-5-one | C1(=CC=C(C=C1)C1(NNC(C1)=O)C)C1=CC=CC=C1 | C16H16N2O
